US07964607B2
(b) 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carboxamide
Following the procedure for the preparation of 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide but substituting 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carbonitrile provided the title compound. 400 MHz 1H NMR (CDCl3) δ 7.67 (s, 1H), 4.09-3.97 (m, 1H), 2.89-2.82 (m, 2H), 2.72-2.68 (m, 2H), 2.15-2.10 (m, 4H). MS: (M+H m/z 227.1).

reactant | 5-amino-1-(2-methoxyphenyl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1=C(C=CC=C1)OC)C(=O)N | C11H12N4O2
reactant | 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1CCSCC1)C#N | C9H12N4S
product | 5-amino-1-(tetrahydro-2H-thiopyran-4-yl)-1H-pyrazole-4-carboxamide | NC1=C(C=NN1C1CCSCC1)C(=O)N | C9H14N4OS
